US06730682B2
Diethyl 2-(((2-Bromopyrimidin-5-yl)amino)methylene)malonate (N.2)
A mixture of 2-bromopyrimidin-5-amine (Krchnak, V.; Arnold, Z. Coll. Czech. Chem. Commun. 1975, 40, 1396-1402) (3.48 g) and diethyl ethoxymethylenemalonate (5.05 mL) is heated to 135° C. for 1 h. The mixture is allowed to cool affording a solid.

reactant | 2-bromopyrimidin-5-amine | 3.48 g | BrC1=NC=C(C=N1)N | C4H4BrN3
reactant | diethyl ethoxymethylenemalonate | 5.05 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 2-(((2-Bromopyrimidin-5-yl)amino)methylene)malonate | BrC1=NC=C(C=N1)NC=C(C(=O)OCC)C(=O)OCC | C12H14BrN3O4
